US07262200B2
To 2,4-Dimethoxypyrimidine-5-boronic acid (200 mg, 10.6 mmol), Iodobenzene (326 mg, 1.60 mmol) and K3PO4 (900 mg, 4.24 mmol) in DMSO (5 mL, purged with Ar) was added 1,1′bis(diphenylphosphino)ferrocene palladium chloride, complex with dichloromethane (12 mg) and the reaction solution was heated to 60 C in a sealed tube. The solution was heated for 2 h, stirred at room temperature for 10 hr and filtered through celite. The solution was poured into sat. NaHCO3 to give a gray solid. This material was collected, dissolved in ethyl acetate, dried (Na2SO4). Flash chromatography 0 to 2% methanol in dichloromethane gave 2,4-Dimethoxy-5-phenyl-pyrimidine (171 mg, 75% yield). HPLC tr=5.62 min (83%), FIA m/e 217.2 (M+H), HNMR (500 MHz, CDCl3); δ8.25 (1H, s), 7.45–7.29 (5H, m), 4.00 (3H, s), 3.98 (3H, s).

reactant | 2,4-Dimethoxypyrimidine-5-boronic acid | 10.6 mmol, 200 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | Iodobenzene | 1.60 mmol, 326 mg | IC1=CC=CC=C1 | C6H5I
reactant | K3PO4 | 4.24 mmol, 900 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | methanol | CO | CH4O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 1,1′bis(diphenylphosphino)ferrocene palladium chloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dichloromethane | 12 mg | ClCCl | CH2Cl2
product | 2,4-Dimethoxy-5-phenyl-pyrimidine | 171 mg, 75% yield | COC1=NC=C(C(=N1)OC)C1=CC=CC=C1 | C12H12N2O2
